US07560551B2
To a resealable tube was added 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine (120 mg, 0.263 mmol) and DMSO (0.526 mL, 0.5 M). To this solution was added morpholine (0.689 mL, 7.89 mmol) and TEA (0.037 mL, 0.26 mmol), and the reaction mixture was heated at 100° C. for 48 h. The reaction was cooled and concentrated under reduced pressure. The crude residue was dissolved in dichloromethane and purified by Biotage column chromatography on silica gel (1%-5% MeOH/Dichloromethane); which provided pure N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-morpholinophthalazin-1-amine as a yellow solid. MS m/z=507 [M+H]+. Calc'd for C28H26N8O2: 506.56.

reactant | 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine | 0.263 mmol, 120 mg | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C24H18ClN7O
reactant | morpholine | 7.89 mmol, 0.689 mL | N1CCOCC1 | C4H9NO
solvent | DMSO | 0.5 M, 0.526 mL | CS(=O)C | C2H6OS
product | N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-morpholinophthalazin-1-amine | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)N1CCOCC1 | C28H26N8O2
